US05632986
Next, 50 μl of the synthetic peptide substrate (2 mM), pyroGlu-Gly-Arg-p-nitroanilide (S-2444, Kabi, Sweden) were added and the mixture was incubated for 30 minutes at room temperature. The reaction was stopped by the addition of 1 ml of 10% acetic acid. The amount of p-nitroaniline produced was measured by absorbance at 405 nm. The activity was expressed as International Standard Units (IU).

reactant | pyroGlu-Gly-Arg-p-nitroanilide | N1[C@@H](CCC1=O)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C([N+](=O)[O-])C=C1 | C19H26N8O6
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | p-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
